US07727989B2
b) 6-(2-Chloropyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one
1.32 g of 6-oxo-1-(2-trimethylsilanylethoxymethyl)-5-[1-(2-trimethylsilanylethoxy-methyl)-1H-benzimidazol-2-yl]-1,6-dihydropyridazine-3-boronic acid, 583 mg of 2,4-dichlorpyrimidine and 3,3 g of cesium carbonate are dissolved in 17 ml of a 1:4 mixture of water and dioxane, and argon is passed through the solution for degassing. After addition of 125 mg of (1,1′-bis(diphenyl-phosphine)ferrocene)palladium(II) chloride-dichloromethane complex, the solution is stirred at 97° C. for 3 hours. For workup, it is diluted with 50 ml of water and extracted several times with ethyl acetate. The combined organic phases are dried using a silica gel cartridge, and the solvent is distilled off. The crude product is purified by preparative RP-HPLC (0-100% acetonitrile in water (+0.01% trifluoroacetic acid)).

reactant | 6-oxo-1-(2-trimethylsilanylethoxymethyl)-5-[1-(2-trimethylsilanylethoxy-methyl)-1H-benzimidazol-2-yl]-1,6-dihydropyridazine-3-boronic acid | 1.32 g | O=C1C(=CC(=NN1COCC[Si](C)(C)C)B(O)O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C23H37BN4O5Si2
reactant | 2,4-dichlorpyrimidine | 583 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | cesium carbonate | 3,3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-(2-Chloropyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one | ClC1=NC=CC(=N1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C27H37ClN6O3Si2
